US07442829B2
1,1,1,2,2,3,3,4,4-nonafluoro-4-iodobutane (138.4 g (400 mmol)) was dissolved in a mixture liquid of DMF (400 ml) and water (80 ml), and mercaptoethanol (32.2 g (400 mmol)) was added. Further, sodium formate (27.2 g (400 mmol)), sodium sulfite heptahydrate (100.9 g (400 mmol)) were added, and stirred at room temperature (23° C.) for one night. Water (1 L) and isopropyl ether (1 L) were added to the reaction liquid, which was separated. A water layer was further extracted with isopropyl ether (500 ml×2). The organic layer washed with 10% hydrochloric acid (500 ml), water (500 ml) and a saturated saline solution (500 ml), dried over anhydrous magnesium sulfate and filtered. The solvent was distilled off to give 2-(perfluorobutylthio)ethanol. Then, p-toluene sulfonic acid monohydrate (2.5 g (13.1 mmol)) was added to a solution of 2-(perfluorobutylthio)ethanol (50 g (equivalent to 158 mmol)) and 2,3-dichloropropionic acid (22.5 g (157 mmol)) in cyclohexane (500 ml), and was subjected to dehydration condensation reaction (bath temperature: 90° C.) for one night by using a Dean-Stark method. The reaction liquid was filtered with celite. An organic layer washed with water three times and with saturated saline solution, and dried over anhydrous magnesium sulfate. The filtration and concentration under reduced pressure gave crude 2-(perfluorobutylthio)ethyl 2,3-dichloropropionate (63.8 g). Yield: 96.5%.

reactant | 2-(perfluorobutylthio)ethanol | 158 mmol, 50 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(SCCO)F | C6H5F9OS
reactant | 2,3-dichloropropionic acid | 157 mmol, 22.5 g | ClC(C(=O)O)CCl | C3H4Cl2O2
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
catalyst | p-toluene sulfonic acid monohydrate | 13.1 mmol, 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(perfluorobutylthio)ethyl 2,3-dichloropropionate | 63.8 g, Yield: 96.5% | ClC(C(=O)OCCSC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CCl | C9H7Cl2F9O2S
